US08471005B2
1148b Into a round bottom flask, 3-[3-(2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile and Methylene chloride (50 mL) were added. m-Chloroperbenzoic acid (0.366 g, 0.00212 mol) was added portion wise over 20 minutes. The reaction was stirred at room temperature for one hour. The reaction was partitioned with DCM (200 mL) and saturated NaHCO3 (200 mL). The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give a yellow solid. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded 3-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile as a yellow solid (540 mg, 98%).

reactant | 3-[3-(2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile | CSC1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)CCC#N | C16H14N4S
reactant | m-Chloroperbenzoic acid | 0.00212 mol, 0.366 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile | 540 mg, 98% | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)CCC#N | C16H14N4OS
